* C:\Users\Flore\OneDrive\Desktop\uni\session7\APP1\S7_PCB\05 - SIMULATION\SPICE FILTERS\ADC.asc
L1 N001 N002 300n
C1 Out N004 47p
L§1n 0 N003 100n
V1 N001 0 AC 1
R1 Out N002 50
R2 N004 N003 50
.ac oct 100 1 100000000
.backanno
.end
