* C:\Users\Flore\OneDrive\Desktop\uni\session7\APP1\S7_PCB\05 - SIMULATION\SPICE FILTERS\DAC.asc
L1 N002 N003 47n
C1 N003 N008 200p
L§50p N007 N008 47n
R1 N002 0 50
R2 0 N007 50
R3 N004 N003 10
R4 N006 N008 10
R5 N004 N005 60
V§5V N001 0 12
R6 out N005 40
I1 N007 N002 31m AC -31m
R7 N006 0 10
XU1 N006 N004 N001 0 N005 AD8065
;ac oct 10 1 100000000
.tran 0 100n 0 1n
.lib ADI.lib
.backanno
.end
